US07202364B2
2,6-Dichloroaniline (16.2 g, 0.1 mol) is suspended in a solution of sodium bicarbonate (8.6 g, 0.1 mol in 100 mL of water) and warmed to 60° C. Elemental iodine (25.4 g, 0.1 mol) is added portionwise and the resulting mixture stirred at 60° C. for 3 days. After cooling to room temperature, the reaction mixture is partitioned between CH2Cl2 (250 mL) and saturated sodium bisulfite solution (500 mL). The aqueous layer is re-extracted with additional CH2Cl2 (250 mL) and the combined organic layers dried (MgSO4) and concentrated by rotary evaporator. The residual oil is purified by flash chromatography (9:1 hexanes/EtOAc) to give 2,6-dichloro-4-iodoaniline (m.p. 100–102° C.).

reactant | 2,6-Dichloroaniline | 0.1 mol, 16.2 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | sodium bicarbonate | 0.1 mol, 100 mL, 8.6 g | C([O-])(O)=O.[Na+]
reactant | iodine | 0.1 mol, 25.4 g | II | I2
product | 2,6-dichloro-4-iodoaniline | ClC1=C(N)C(=CC(=C1)I)Cl | C6H4Cl2IN
